US04493931
Diethyl N-(p-methoxybenzylidene)-aminomethylphosphonate
Starting from 16.7 g. (0.1 mol) diethyl aminomethylphosphonate and 13.6 g. (0.1 mol) p-methoxybenzaldehyde and following the procedure described in Example 1, 28.5 g. (yield: 100%) of the desired product are obtained in the form of a yellow oil.

reactant | diethyl aminomethylphosphonate | 0.1 mol | NCP(OCC)(OCC)=O | C5H14NO3P
reactant | p-methoxybenzaldehyde | 0.1 mol | COC1=CC=C(C=O)C=C1 | C8H8O2
product | Diethyl N-(p-methoxybenzylidene)-aminomethylphosphonate | yield: 100% | COC1=CC=C(C=NCP(OCC)(OCC)=O)C=C1 | C13H20NO4P
